US07820670B2
Step A: N1-(3-Bromoimidazo[1,2-b]pyridazin-6-yl)-N3,N3-dimethylpropane-1,3-diamine
Prepared from 3-bromo-6-chloroimidazo[1,2-b]pyridazine and N1,N1-dimethylpropane-1,3-diamine according to general procedure 1 providing the intermediate (160 mg, 84%) as a clear oil: Rf=0.16 (CH2Cl2/MeOH/NH4OH, 160:18:2); 1H NMR (500 MHz, CD3OD) δ 7.54 (d, J=9.5 Hz, 1H), 7.39 (s, 1H), 6.68 (d, J=9.5 Hz, 1H), 3.40 (t, J=7.1 Hz, 2H), 2.48-2.45 (m, 2H), 2.27 (s, 6H), 1.93-1.88 (m, 2H); ES-MS: (M+H)=298, 300 m/z.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | N1,N1-dimethylpropane-1,3-diamine | CN(CCCN)C | C5H14N2
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | N1-(3-Bromoimidazo[1,2-b]pyridazin-6-yl)-N3,N3-dimethylpropane-1,3-diamine | BrC1=CN=C2N1N=C(C=C2)NCCCN(C)C | C11H16BrN5
